US07888376B2
(S)-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-pivalamidopropanoic acid (0.10 g, 0.21 mmol) was dissolved in MeOH (2 mL) and 4M HCl in dioxanes added (2 mL). The resulting solution was stirred at RT for 30 mins then the solvents were removed under reduced pressure yielding a pale yellow oil (crude quantative) LCMS: 1.31 min [M+1] 363.2 (2 min gradient, MeOH/H2O 0.1% TFA). The residue was dissolved in acetonitrile (5 mL) and TEA, (0.3 mL, excess), aniline (0.030 g, 0.32 mmol) and PyBrOP (0.11 g, 0.24 mmol) added at RT. The RM was stirred for 14 h, concentrated to 1.5 mL, filtered and purified by prep HPLC: YMC ODSA30×100 mm, 40ml/min, 20-100% MeOH (0.1% TFA) over 10 min. The product (S)-3-amino-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-N-phenylpropanamide with a retention time of 7.52 min was isolated as a pale yellow oil, (0.054 g, 58% yield). LCMS: 1.48 min [M+1] 438.2 (2 min gradient, MeOH/H2O 0.1% TFA).

reactant | (S)-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-pivalamidopropanoic acid | 0.21 mmol, 0.10 g | ClC=1C=CC(=NC1)[C@@](CC(=O)O)(NC(C(C)(C)C)=O)C1=CC(=CC(=C1)C(F)(F)F)F | C20H19ClF4N2O3
reactant | HCl | 4M | Cl | ClH
reactant | aniline | 0.32 mmol, 0.030 g | NC1=CC=CC=C1 | C6H7N
reactant | PyBrOP | 0.24 mmol, 0.11 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | MeOH | 2 mL | CO | CH4O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | MeOH H2O | CO.O
product | (S)-3-amino-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-N-phenylpropanamide | 58% yield | N[C@@](CC(=O)NC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)C1=NC=C(C=C1)Cl | C21H16ClF4N3O
